US09278973B2
To a solution of 3-(3-chlorophenyl)-1H-1,2,4-triazol-5-amine (120 mg, 0.62 mmol) in n-BuOH (1 mL) was added ethyl 3-(1H-benzo[d][1,2,3]triazol-5-yl)-3-oxopropanoate (214 mg, 0.92 mmol) and TsOH (5.3 mg, 0.03 mmol), and the resulting mixture was stirred for 5 h at 130° C. The solids were collected by filtration, washed with MeOH (3×1 mL) to afford 5-(1H-benzo[d][1,2,3]triazol-5-yl)-2-(3-chlorophenyl)-[1,2,4]triazolo[1,5-α]pyrimidin-7(4H)-one as a off-white solid (73 mg, 33%).

reactant | 3-(3-chlorophenyl)-1H-1,2,4-triazol-5-amine | 0.62 mmol, 120 mg | ClC=1C=C(C=CC1)C1=NNC(=N1)N | C8H7ClN4
reactant | ethyl 3-(1H-benzo[d][1,2,3]triazol-5-yl)-3-oxopropanoate | 0.92 mmol, 214 mg | N1N=NC2=C1C=CC(=C2)C(CC(=O)OCC)=O | C11H11N3O3
reactant | TsOH | 0.03 mmol, 5.3 mg | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
solvent | n-BuOH | 1 mL | CCCCO | C4H10O
product | 5-(1H-benzo[d][1,2,3]triazol-5-yl)-2-(3-chlorophenyl)-[1,2,4]triazolo[1,5-α]pyrimidin-7(4H)-one | 73 mg, 33% | N1N=NC2=C1C=CC(=C2)C=2NC=1N(C(C2)=O)N=C(N1)C1=CC(=CC=C1)Cl | C17H10ClN7O
